US08003662B2
Step C: Preparation of N-(3-fluoro-4-(2-(1,2,3,6-tetrahydropyridin-4-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A single-neck, round-bottomed flask was charged with tert-butyl 4-(7-(2-fluoro -4-(2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamido)phenoxy)thieno[3,2-b]pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (27.3 mg, 0.0415 mmol) and CF3CO2H (5 mL). The reaction mixture was stirred at room temperature until the starting material had been consumed (four hours). Then the solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product (16.7 mg, 72.2%). LRMS (APCI pos): >99% purity, 254 nm, m/e 558 (M+1). 1H NMR (400 MHz, CDCl3) δ 11.83 (s, 1H), 8.42 (m, 2H), 8.24 (d, 1H), 7.95 (dd, 1H), 7.60 (m, 2H), 7.38 (m, 2H), 7.24 (m, 3H), 6.48 (d, 1H), 6.40 (s, 1H), 3.59 (m, 2H), 3.15 (m, 2H), 2.58 (m, 2H).

reactant | tert-butyl 4-(7-(2-fluoro -4-(2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamido)phenoxy)thieno[3,2-b]pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.0415 mmol, 27.3 mg | FC1=C(OC2=C3C(=NC=C2)C=C(S3)C3=CCN(CC3)C(=O)OC(C)(C)C)C=CC(=C1)NC(=O)C=1C(N(N=CC1)C1=CC=C(C=C1)F)=O | C34H29F2N5O5S
reactant | CF3CO2H | 5 mL | C(F)(F)(F)C(=O)O | C2HF3O2
product | N-(3-fluoro-4-(2-(1,2,3,6-tetrahydropyridin-4-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 16.7 mg, 72.2% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C=2CCNCC2)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C29H21F2N5O3S
